US08044068B2
A solution of 2-chloro-6-methoxy-4-methylquinoline (0.20 g) in dichloromethane (15 mL) was cooled to −78° C., followed by addition of a solution (5.3 mL) of 1 M boron tribromide in dichloromethane, and the mixture was stirred for 12 h while slowly heating to room temperature. To the reaction mixture was added a saturated sodium hydrogencarbonate solution to make it basic, and the mixture was extracted with chloroform. The aqueous layer was reextracted with a mixture solution of ethyl acetate and n-butanol, then the organic layer was combined and concentrated under reduced pressure, and the resulting solids were washed with diethyl ether to obtain 2-chloro-6-hydroxy-4-methylquinoline (0.15 g).

reactant | 2-chloro-6-methoxy-4-methylquinoline | 0.20 g | ClC1=NC2=CC=C(C=C2C(=C1)C)OC | C11H10ClNO
reactant | boron tribromide | 1 M, 5.3 mL | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-chloro-6-hydroxy-4-methylquinoline | 0.15 g | ClC1=NC2=CC=C(C=C2C(=C1)C)O | C10H8ClNO
